### PR TITLE
[Merged by Bors] - feat: port AlgebraicGeometry.Morphisms.QuasiCompact

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean [hunk 1]
```diff
@@ -0,0 +1,356 @@
...
+    rw [iSup_subtype, sup_comm]
+    conv_rhs => rw [iSup_subtype]
+    exact iSup_insert
+#align algebraic_geometry.compact_open_induction_on AlgebraicGeometry.compact_open_induction_on
+
+theorem exists_pow_mul_eq_zero_of_res_basicOpen_eq_zero_of_isAffineOpen (X : Scheme)
+    {U : Opens X.carrier} (hU : IsAffineOpen U) (x f : X.presheaf.obj (op U))
+    (_ : Scheme.basicOpen X f ≤ U) -- this assumption should be found automatically
+    -- by `restrict_tac`, it is added temporarily so as to make `x |_ X.basicOpen f` work just below
+    (H : x |_ X.basicOpen f = 0) : ∃ n : ℕ, f ^ n * x = 0 := by
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:304]: The syntax `x |_ X.basicOpen f` does not work because the assumption that `Scheme.basicOpen X f ≤ U` is not found automatically. The problem is that although the lemma `Scheme.basicOpen_le` is tagged with the attribute `sheaf_restrict`, the tactic `restrict_tac` does not seem to search for the lemmas tagged with this attribute.

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:306]: Tbh, I don't know how tactics and Aesop works, I just copied `aesop_cat`.
```lean
macro (name := restrict_tac') "restrict_tac'" : tactic =>
`(tactic|
  aesop? (options := { introsTransparency? := some .reducible, terminal := true })
  (rule_sets [$(Lean.mkIdent `Restrict):ident]))
```

This solves `X.basicOpen f <= U`, however it doesn't solve what `restrict_tac` solve and
```lean
example (X : Scheme)
    {U V : Opens X} (f : X.presheaf.obj (op U))
    : X.basicOpen f ⊓ V ≤ U := by
```
this cannot be solved by either `restrict_tac` or `restrict_tac'`

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:306]: may be @JLimperg can provide some assistance on this

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:303]:
```lean
theorem mem_basicOpen_top' {U : Opens X} (f : X.presheaf.obj (op U)) (x : X.carrier) :
    x ∈ X.basicOpen f ↔ ∃ (m : x ∈ U), IsUnit (X.presheaf.germ (⟨x, m⟩ : U) f) := by
```

This lemma helps `restrict_tac` find the desired proofs if it is tagged `@[simp]`, but this is not a very good lemma, so I gave it a local `simp` attribute whenever `restrict_tac` need this lemma

Comment (joelriou) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:304]: Thanks! Unless a better solution is found, it looks good to me. Could you add a porting note?

**Review by jcommelin — APPROVED** [review]
@jjaassoonn Please merge after adding a porting note as @joelriou suggested.

bors d=jjaassoonn

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean (hunk 1 above)
Comment (JLimperg) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:304]: If this lemma is generally useful for `restrict_tac`, you can add it to Aesop's `simp` set (but not the global `simp` set):

```lean
@[aesop simp (rule_sets := [Restrict])]
theorem mem_basicOpen_top' ...
```

I hope I got my own syntax right...

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:304]: @JLimperg, thanks for the suggestion, but Lean is complaining
```
expected '['
```

Comment (jjaassoonn) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:301]: Ah, it is `@[aesop norm simp (rule_sets [Restrict])]`, I wonder what `norm` means

Comment (JLimperg) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiCompact.lean:301]: It means that the rule is registered in the 'normalisation phase' of Aesop. Aesop applies rules in three phases, of which this is the first. `simp` rules are actually always run in this phase, so Aesop could infer the phase in this case. See the Aesop [README](https://github.com/JLimperg/aesop) for details.
